US08431607B2
To a dry round bottom flask is added [2-hydroxy-1-(3-methoxy-phenyl)ethyl]-carbamic acid benzyl ester (300 mg, 1 mmol), 1-(4-chlorophenoxy)-4-iodobenzene (330 mg, 1 mmol), K3PO4 (210 mg), 1,2-cyclohexanediamine (15 μL) and CuI (20 mg), and DMF (5 mL). The mixture is evacuated and back-filled with nitrogen three times. The reaction mixture is heated to 110° C. for 7 h. The reaction is then cooled to room temperature, diluted with EtOAc (50 mL), washed with 1N HCl, and brine, subsequently dried over MgSO4, filtered, and concentrated to give the crude product, which is purified by flash chromatography on silica gel (EtOAc/Hex: 1/2) to provide 3-[4-(4-chlorophenoxy)phenyl]-4-(3-methoxyphenyl)-oxazolidin-2-one (304 mg).

reactant | [2-hydroxy-1-(3-methoxy-phenyl)ethyl]-carbamic acid benzyl ester | 1 mmol, 300 mg | C(C1=CC=CC=C1)OC(NC(CO)C1=CC(=CC=C1)OC)=O | C17H19NO4
reactant | 1-(4-chlorophenoxy)-4-iodobenzene | 1 mmol, 330 mg | ClC1=CC=C(OC2=CC=C(C=C2)I)C=C1 | C12H8ClIO
reactant | K3PO4 | 210 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,2-cyclohexanediamine | 15 μL | C1(C(CCCC1)N)N | C6H14N2
catalyst | CuI | 20 mg | [Cu]I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-[4-(4-chlorophenoxy)phenyl]-4-(3-methoxyphenyl)-oxazolidin-2-one | 304 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(OCC2C2=CC(=CC=C2)OC)=O)C=C1 | C22H18ClNO4
